US08426420B2
i) 4-tert-Butoxycarbonylamino-piperidine-1-carboxylic acid benzyl ester
To a solution of 4.94 g piperidin-4-yl-carbamic acid tert-butyl ester, 300 mg DMAP and 5.2 ml triethylamine in 50 ml dichloromethane were added 6.3 ml benzyl chloroformate dropwise at 0° C. After 8 h the suspension was diluted with dichloromethane and washed with half-saturated NaHCO3 and 0.1 M HCl. The crude product obtained after evaporation of the solvent was suspended in heptane, the supernatant solution being decanted yielding the product as colorless solid. Yield: 7.9 g.

reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 4.94 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | triethylamine | 5.2 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 6.3 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
catalyst | DMAP | 300 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-tert-Butoxycarbonylamino-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC(=O)OC(C)(C)C | C18H26N2O4
